US08802712B2
Sodium nitrite (1.28 g, 18.60 mmol), dissolved in water (2.5 ml), is added to a solution of 3-amino-6,7-dimethoxy-4-methylquinoline (2.70 g, 12.39 mmol) in glacial acetic acid (90 ml). The reaction mixture is stirred at room temperature for 3 h. When the reaction is complete, the mixture is evaporated in vacuo. The residue is taken up in water, filtered and rinsed with water. The filtrate is evaporated to dryness in vacuo. The residue obtained is filtered off with suction a number of times through a little flash silica gel in a frit with cyclohexane/ethyl acetate 4:1 (parts by volume) in order to remove impurities. The filtrate is discarded. The filter cake is subsequently washed with ethyl acetate/0-10% by vol. of ethanol, and the filtrate is evaporated to dryness in vacuo, giving 7,8-dimethoxy-3H-pyrazolo[3,4-c]-quinoline (2.29 g, purity 85%, 8.48 mmol) as a solid. MS: 230.0 (M+H+), TLC (HPTLC): Rf=0.45 (ethyl acetate/ethanol 8:1, parts by volume).

reactant | Sodium nitrite | 18.60 mmol, 1.28 g | N(=O)[O-].[Na+]
reactant | 3-amino-6,7-dimethoxy-4-methylquinoline | 12.39 mmol, 2.70 g | NC=1C=NC2=CC(=C(C=C2C1C)OC)OC | C12H14N2O2
solvent | water | 2.5 ml | O | H2O
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
product | 7,8-dimethoxy-3H-pyrazolo[3,4-c]-quinoline | 8.48 mmol, 2.29 g | COC=1C(=CC=2C3=C(C=NC2C1)NN=C3)OC | C12H11N3O2
